US04888332
Preparation of 7-amino-5-mercapto-s-triazolo[1,5-c]pyrimidine
A mixture of 1,4,6-triamino-2(1H)-pyrimidinethione (2.0 g) and 40 ml of formic acid was refluxed for seven hours. After concentrating under reduced pressure, 80 ml of water was added to the residue, the mixture was refluxed for one hour, and the crystals formed upon cooling were collected by filtration and washed with methanol, giving 1.6 g of the objective compound as faint yellow crystals.

reactant | 1,4,6-triamino-2(1H)-pyrimidinethione | 2.0 g | NN1C(N=C(C=C1N)N)=S | C4H7N5S
reactant | formic acid | 40 ml | C(=O)O | CH2O2
product | 7-amino-5-mercapto-s-triazolo[1,5-c]pyrimidine | 1.6 g | NC1=CC=2N(C(=N1)S)N=CN2 | C5H5N5S
